US07658867B2
Synthesis of 2,5-dichloro-4′-(1-pyrrolyl)benzophenone
134.6 g (0.500 mol) of 2,5-dichloro-4′-fluorobenzophenon, 50.3 g (0.750 mol) of pyrrole, 76.0 g (0.550 mol) of potassium carbonate, and 840 ml of N,N′-dimethylacetamide were added into a 2 L three-necked flask equipped with a stirrer, thermometer, cooling pipe, and nitrogen inlet tube. The reaction solution was heated by use of an oil bath and was allowed to react at 100 degrees C. in a nitrogen atmosphere for 3 hours. After the disappearance of material was confirmed by a thin layer chromatography, the mixture was cooled to ambient temperature. Then, the reaction solution was gradually poured into 3 L of water to cause coagulation. The product obtained by filtration was dissolved into 2.5 L of toluene was added, and then, by using a separating funnel washed by brine until the water layer becomes neutral. After the organic layer was dried by magnesium sulfate, the solvent was removed by an evaporator. The rough yield was 133.3 g. By using mixture solvent of hexane and ethyl acetate, the dried product was recrystallized for isolation to obtain 125.3 g (0.396 mol) of the intended refining material in 79.3% in yield.

reactant | 2,5-dichloro-4′-fluorobenzophenon | 0.500 mol, 134.6 g | ClC1=C(C(=O)C2=CC=C(C=C2)F)C=C(C=C1)Cl | C13H7Cl2FO
reactant | pyrrole | 0.750 mol, 50.3 g | N1C=CC=C1 | C4H5N
reactant | potassium carbonate | 0.550 mol, 76.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 3 L | O | H2O
solvent | toluene | 2.5 L | C1(=CC=CC=C1)C | C7H8
product | 2,5-dichloro-4′-(1-pyrrolyl)benzophenone | ClC1=C(C(=O)C2=CC=C(C=C2)N2C=CC=C2)C=C(C=C1)Cl | C17H11Cl2NO
